US06110933
A solution of (R)-3-methanesulfonyloxyhexadecanamide (32 mg) and sodium azide (12 mg) in N,N-dimethylformamide (1 ml) was heated at 60° C. for 2 hours. The cooled mixture was partitioned between ethyl acetate (20 ml) and water (10 ml). The organic phase was washed with water (10 ml), and brine (10 ml), dried, and concentrated under vacuum, then the residue was recrystallized at -20° C. from a mixture of ethyl acetate (0.2 ml) and n-hexane (2 ml) to give (S)-3-azidohexadecanamide (14 mg).

reactant | (R)-3-methanesulfonyloxyhexadecanamide | 32 mg | CS(=O)(=O)O[C@@H](CC(=O)N)CCCCCCCCCCCCC | C17H35NO4S
reactant | sodium azide | 12 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (S)-3-azidohexadecanamide | 14 mg | N(=[N+]=[N-])[C@H](CC(=O)N)CCCCCCCCCCCCC | C16H32N4O
